US04927452
Preparation of 1-(2,6-difluorophenylsulphonylcarbamoyl)-2-pyrazoline (30).
N-(2,6-difluorophenylsulphonyl)urea in an amount of 2.36 and 1.40 g of 2-pyrazoline in 20 ml of dioxane are refluxed for 4 hours. After evaporation of the solvent at reduced pressure, the remaining solid is dissolved in 20 ml of water. This solution is filtrated and acidified with conc. hydrochloric acid. The precipitate is sucked off, washed with water and dried, yielding the title product, viz. 1-(2,6-difluorophenylsulphonylcarbamoyl)-2-pyrazoline in a yield of 1.87 g; melting point 183° C.

reactant | N-(2,6-difluorophenylsulphonyl)urea | FC1=C(C(=CC=C1)F)S(=O)(=O)NC(=O)N | C7H6F2N2O3S
reactant | 2-pyrazoline | 1.40 g | N1N=CCC1 | C3H6N2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2,6-difluorophenylsulphonylcarbamoyl)-2-pyrazoline | FC1=C(C(=CC=C1)F)S(=O)(=O)NC(=O)N1N=CCC1 | C10H9F2N3O3S
